US09062070B2
A mixture of 2,4-dibromo-3-methylthiophene (20.0 g, 78.1 mmol) and CuCN (6.30 g, 70.3 mmol) in 150 mL of DMF was stirred at reflux for 4 hours before cooling down. The reaction mixture was poured into 1 L of ether with stirring and the precipitate was removed by filtration. The filtrate was washed with water (3×100 mL), brine (100 mL), dried over anhydrous Na2SO4 and concentrated. The residue was purified by silica column chromatography (petrol ether: EtOAc=50:1) to afford 4-bromo-3-methylthiophene-2-carbonitrile.

reactant | 2,4-dibromo-3-methylthiophene | 78.1 mmol, 20.0 g | BrC=1SC=C(C1C)Br | C5H4Br2S
reactant | CuCN | 70.3 mmol, 6.30 g | C(#N)[Cu]
reactant | ether | 1 L | CCOCC | C4H10O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 4-bromo-3-methylthiophene-2-carbonitrile | BrC=1C(=C(SC1)C#N)C | C6H4BrNS
